US07816522B2
(40b) 4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde
To a solution of 665 mg of 4-fluoro-7-methoxy-2,3-dihydrobenzofuran and 740 mg of N,N,N′,N′,N″-pentamethyldiethylenetriamine in 15 ml of THF there was added dropwise 1.66 ml of n-butyllithium (2.55 M, hexane solution) at −74° C. The mixture was stirred at −74° C. for 1 hour, and then 500 μl of N-formylmorpholine was added. After further stirring at room temperature for 1 hour, 1N hydrochloric acid was added to the reaction mixture while cooling on ice, and the mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (321 mg) as an oil.

reactant | 4-fluoro-7-methoxy-2,3-dihydrobenzofuran | 665 mg | FC1=CC=C(C2=C1CCO2)OC | C9H9FO2
reactant | N,N,N′,N′,N″-pentamethyldiethylenetriamine | 740 mg | CN(C)CCN(C)CCN(C)C | C9H23N3
reactant | n-butyllithium | 2.55 M, 1.66 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 500 μl | C(=O)N1CCOCC1 | C5H9NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-fluoro-7-methoxy-2,3-dihydrobenzofuran-5-carbaldehyde | 321 mg | FC1=C(C=C(C2=C1CCO2)OC)C=O | C10H9FO3
